US05817670
Tert-butyl 2-pivaloylamino-β-hydroxy-β-phenyl-3-pyridinepropanoate (2.09 g, 5.25 mmol) was dissolved in a mixed solvent of 3N hydrochloric acid aqueous solution (10 ml) and dioxane (10 ml), and the solution was heated under reflux for 3 days. After cooling to room temperature, saturated sodium bicarbonate aqueous solution was added for neutralization. The reaction mixture was filtered, and the resulting crystals were thoroughly washed with water and recrystallized from acetonitrile to give 4-phenyl-1,8-naphthyridin-2(1H)-one (600 mg, 51%).

reactant | Tert-butyl 2-pivaloylamino-β-hydroxy-β-phenyl-3-pyridinepropanoate | 5.25 mmol, 2.09 g | C(C(C)(C)C)(=O)NC1=NC=CC=C1C(CC(=O)OC(C)(C)C)(C1=CC=CC=C1)O | C23H30N2O4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrochloric acid | 3N, 10 ml | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 4-phenyl-1,8-naphthyridin-2(1H)-one | 600 mg, 51% | C1(=CC=CC=C1)C1=CC(NC2=NC=CC=C12)=O | C14H10N2O
